US07825244B2
a. Piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester
To a mixture of isonipecotic acid (39.0 g, 302 mmol) in MeOH (300 mL) was bubbled HCl gas. The flask was tightly capped and stirred at rt for 1.5 h, at which point the homogeneous solution was concentrated, taken up in DCM (2×125 mL), and repeatedly concentrated under reduced pressure to give a white solid largely free of MeOH. To this was added TEA (43.6 mL, 313 mmol) and DCM (80 mL), and this slurry was stirred on an ice bath while a solution of (Boc)2O (60.9 g, 279 mmol) in DCM (100 mL) was added dropwise with stirring over 10 min at 0° C. After 1 h stirring at 0° C., the ice bath was removed and the slurry was stirred at rt overnight. The slurry was then diluted with ether (700 mL), washed with 0.5M NaH2PO4 (1×400 mL), 4 M NaCl (1×450 mL), dried (Na2SO4), and concentrated under reduced pressure to provide the title compound as a clear light amber oil that crystallized upon standing (65.3 g, 96%). 1H-NMR (300 MHz, CDCl3) δ 4.10-3.95 (br m, 2H), 3.69 (s, 3H), 2.92-2.75 (br m, 2H), 2.45 (m, 1H), 1.93-1.82 (m, 2H), 1.70-1.55 (m, 2H), 1.46 (s, 9H).

reactant | isonipecotic acid | 302 mmol, 39.0 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | (Boc)2O | 279 mmol, 60.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | MeOH | 300 mL | CO | CH4O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | Piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | COC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO4
